US07528147B2
A solution 5-benzyl-tetrahydropyrrolo[3,4-c]pyrrole-1,3-dione, (11.5 g; 49.9 mmol) in ethanol (200 ml) is placed in a 1000 ml autoclave and palladium-on-charcoal (5%; 2 g; 0.9 mmol) is then added. After having purged the reactor with nitrogen, the autoclave is placed under 58 bars of hydrogen at 70° C. for 16 hours. After returning to 20° C., filtration and washing of the catalyst, evaporation is carried out under reduced pressure and the solid obtained is then recrystallized from methanol (100 ml) and drying is carried out under reduced pressure at constant weight. Perhydropyrrolo[3,4-c]pyrrole-1,3-dione, (3.6 g) is isolated, the characteristics of which are as follows:

reactant | 5-benzyl-tetrahydropyrrolo[3,4-c]pyrrole-1,3-dione | C(C1=CC=CC=C1)N1CC2C(C1)C(NC2=O)=O | C13H14N2O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.9 mmol, 2 g | [Pd] | Pd
product | Perhydropyrrolo[3,4-c]pyrrole-1,3-dione | 3.6 g | C1(NC(C2C1CNC2)=O)=O | C6H8N2O2
